US04065573
A solution of 2.21 g. (8.3 mmole) of 4-isocyanato4-(2-thienyl) cyclohexanone ethylene ketal in 40 ml. tetrahydrofuran (THF) is added to a suspension of 0.32 g. (8.4 mmole) of lithium aluminum hydride (LAH) in 5 ml. THF. Following 4 hours' stirring under reflux the mixture is cooled in ice. There is then added in turn 0.32 ml. water, 0.32 ml. 15% NaOH and 0.96 ml. water. The inorganic gel is collected on a filter and the filtrate taken to dryness. A solution of the residue in a small amount of ether is treated with a just-sufficient amount of 3 N hydrogen chloride in ether. The precipitated salt is recrystallized from methylene chloride:ethyl acetate to afford 0.84 g. (35% yield) of 4-methylamino-4-(2-thienyl)cyclohexanone, ethylene ketal hydrochloride, m.p. 211°-214° C.

reactant | 4-isocyanato4-(2-thienyl) cyclohexanone ethylene ketal | 8.3 mmole | C1COC2(CCC(CC2)(C=2SC=CC2)N=C=O)O1 | C13H15NO3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 8.4 mmole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 4-methylamino-4-(2-thienyl)cyclohexanone | 35% yield | CNC1(CCC(CC1)=O)C=1SC=CC1 | C11H15NOS
